US04206122
1-Benzyloxycarbonyl-4-benzyloxy-L-proline (4.55 g.) [obtained from 4-benzyloxyproline [Biochem. Biophys. Acta 303, 198 (1973)] and benzyloxycarbonyl chloride] and 3,5-dimethylpyrazole (1.15 g.) are dissolved in chloroform (200 ml.). Dicyclohexylcarbodiimide (2.06 g.) is added and the mixture is stirred in an ice-salt bath for one hour and at room temperature for 16 hours. The precipitate is filtered and the filtrate is concentrated to dryness. The residue is dissolved in ethyl acetate, washed with N-hydrochloric acid and water. The organic layer is dried and concentrated to dryness in vacuo to yield 1-benzyloxycarbonyl-4-benzyloxy-L-proline-3,5-dimethylpyrazolide.

reactant | 1-Benzyloxycarbonyl-4-benzyloxy-L-proline | 4.55 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CC(C1)OCC1=CC=CC=C1 | C20H21NO5
reactant | 3,5-dimethylpyrazole | 1.15 g | CC1=NNC(=C1)C | C5H8N2
reactant | Dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyloxycarbonyl-4-benzyloxy-L-proline 3,5-dimethylpyrazolide | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CC(C1)OCC1=CC=CC=C1.CC1=N[N-]C(=C1)C | InChI=1S/C20H21NO5.C5H7N2/c22-19(23)18-11-17(25-13-15-7-3-1-4-8-15)12-21(18)20(24)26-14-16-9-5-2-6-10-16;1-4-3-5(2)7-6-4/h1-10,17-18H,11-14H2,(H,22,23);3H,1-2H3/q;-1/t17?,18-;/m0./s1
